US07977477B2
The compound was prepared in a manner analogous to Example 22B, however using 2,6-difluoro-N-[3-(5-formyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide (57.4 mg, 0.16 mmol), dry THF (5 ml), 3 Å molecular sieves, dimethylamine (35% in EtOH) (55 μL, 0.31 mmol) and triacetoxy sodium borohydride (100 mg, 0.47 mmol) to give N-[3-(5-dimethylaminomethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2,6-difluoro-benzamide (11 mg, 18%) as a yellow solid. (LC/MS: Rt 2.85, [M+H]+ 397.17).

reactant | 2,6-difluoro-N-[3-(5-formyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | 0.16 mmol, 57.4 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)C=O)C(=CC=C1)F | C18H11F2N5O2
reactant | dimethylamine | 0.31 mmol, 55 μL | CNC | C2H7N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[3-(5-dimethylaminomethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2,6-difluoro-benzamide | 11 mg, 18% | CN(C)CC1=CC2=C(NC(=N2)C2=NNC=C2NC(C2=C(C=CC=C2F)F)=O)C=C1 | C20H18F2N6O
